US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid phenethylamide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and phenethylamine. The product was purified by mass directed purification to give the title compound as an orange solid. δH (CD3OD): 2.94 (2H, t), 3.63 (2H, t), 7.00 (1H, s), 7.15–7.30 (5H, m), 7.64 (1H, s), 8.57 (1H, s); m/z (ES+)=300 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid phenethylamide | C(CC1=CC=CC=C1)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C16H14ClN3O
